US06200976B1
f. 4-[(6-benzenesulphonylamino-4-oxo-3,4-dihydroquinazolin-2-yl)-methyl]-benzonitrile
Prepared analogously to Example 1e from 4-[(6-amino-4-oxo-3,4-dihydro-quinazolin-2-yl)-methyl]-benzonitrile, benzenesulphonic acid chloride and dimethylaminopyridine in pyridine.

reactant | 4-[(6-amino-4-oxo-3,4-dihydro-quinazolin-2-yl)-methyl]-benzonitrile | NC=1C=C2C(NC(=NC2=CC1)CC1=CC=C(C#N)C=C1)=O | C16H12N4O
reactant | benzenesulphonic acid chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-[(6-benzenesulphonylamino-4-oxo-3,4-dihydroquinazolin-2-yl)-methyl]-benzonitrile | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C2C(NC(=NC2=CC1)CC1=CC=C(C#N)C=C1)=O | C22H16N4O3S
